US05514691
4-Trifluoromethyl-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 4-trifluoromethylbenzenesulfonyl chloride according to the procedures described in Example 5. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 155°-158° C., yield 72%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-trifluoromethylbenzenesulfonyl chloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | 4-Trifluoromethyl-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 72% | FC(C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)Br)(F)F | C11H8BrF3N2O3S
